US05723497
A 200-ml flask equipped with a stirrer, reflux tube and dropping funnel was charged with 24.8 g (87 mmol) of 10-(2-ethylhexyloxy)decanol, 17.7 g (0.191 mol) of epichlorohydrin, 1.4 g (4.4 mmol) of tetrabutylammonium bromide and 25 ml of hexane. While stirring the mixture at 40° C., 29.2 g (0.35 mol) of a 48% aqueous solution of NaOH were added dropwise over 3 hours. After completion of the dropping, the stirring was continued further for 2 hours at 40° C. After the resultant reaction mixture was washed with water, and the solvent was distilled off under reduced pressure, the resultant residue was purified by column chromatography on silica gel, thereby obtaining 24.6 g (yield: 82.6%) of 10-(2-ethylhexyloxy)decyl glycidyl ether.

reactant | 10-(2-ethylhexyloxy)decanol | 87 mmol, 24.8 g | C(C)C(COCCCCCCCCCCO)CCCC | C18H38O2
reactant | epichlorohydrin | 0.191 mol, 17.7 g | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 4.4 mmol, 1.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | 25 ml | CCCCCC | C6H14
product | 10-(2-ethylhexyloxy)decyl glycidyl ether | 24.6 g, yield: 82.6% | C(C1CO1)OCCCCCCCCCCOCC(CCCC)CC | C21H42O3
